US08686004B2
Stage 1: 6-Bromo-N-(methylsulphonyl)pyridine-2-carboxamide
5.40 g (26.7 mmol) of 6-bromo-2-pyridinecarboxylic acid were initially charged in 150 ml of tetrahydrofuran, 6.51 g (40.0 mmol) of carbonyldiimidazole were added and the mixture was boiled at reflux for 1 h. After cooling to room temperature, 3.81 g (40.0 mmol) of methanesulphonamide were added, the mixture was stirred for 10 min, then 6.10 g (40 mmol) of diazabicycloundecene (DBU) were added and the mixture was stirred at room temperature for 16 h.

reactant | 6-bromo-2-pyridinecarboxylic acid | 26.7 mmol, 5.40 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | carbonyldiimidazole | 40.0 mmol, 6.51 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulphonamide | 40.0 mmol, 3.81 g | CS(=O)(=O)N | CH5NO2S
reactant | diazabicycloundecene | 40 mmol, 6.10 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-Bromo-N-(methylsulphonyl)pyridine-2-carboxamide | BrC1=CC=CC(=N1)C(=O)NS(=O)(=O)C | C7H7BrN2O3S
